US08071631B2
4-Methyl-N-[5-(4-methoxyphenyl)-pyrimidine-2-yl]benzenesulfonamide
To a solution of 5-(4-methoxyphenyl)pyrimidin-2-amine (302 mg, 1.5 mmol) in 10 mL of dry pyridine was added 4-methylbenzenesulfonyl chloride (320 mg, 1.68 mmol). The solution was stirred at room temperature under Argon. After 21 h, the pyridine was removed in vacuo and flashed off with toluene. The residue was partitioned between CH2Cl2 and 1M NaOH. The organic phase was washed with 1M NaOH until no turbidity was observed on rectification of a small sample. The alkaline phase was made acidic (˜pH 3) with 1M HCl and extracted with EtOAc. The crude solid product weighed 180 mg. The crude product was taken up in hot HOAc (4 mL) and diluted with 2 mL of water to initiate crystallization. The product was collected by filtration, washed with water and EtOH and dried in vacuo to give white needles (147 mg) with mp 220-223° C.

reactant | 5-(4-methoxyphenyl)pyrimidin-2-amine | 1.5 mmol, 302 mg | COC1=CC=C(C=C1)C=1C=NC(=NC1)N | C11H11N3O
reactant | 4-methylbenzenesulfonyl chloride | 1.68 mmol, 320 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-N-[5-(4-methoxyphenyl)-pyrimidine-2-yl]benzenesulfonamide | 147 mg | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=C(C=N1)C1=CC=C(C=C1)OC | C18H17N3O3S
